US07674807B2
3-Fluorophthalic anhydride (4.98 g) and 1-(3-methyl-4-aminobenzyl)-3,5-bis(trifluoromethyl)-1H-pyrazole (9.70 g) were refluxed in acetic acid (43 ml) for 3 hours. After finishing the reaction, the acetic acid was distilled off under the reduced pressure and the obtained crude crystals were washed with t-butyl methyl ether to obtain the aimed 2-{4-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl-methyl]-2-methylphenyl}-4-fluoroisoindol-1,3-dione (10.80 g). mp. 158-159° C.

reactant | 3-Fluorophthalic anhydride | 4.98 g | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
reactant | 1-(3-methyl-4-aminobenzyl)-3,5-bis(trifluoromethyl)-1H-pyrazole | 9.70 g | CC=1C=C(CN2N=C(C=C2C(F)(F)F)C(F)(F)F)C=CC1N | C13H11F6N3
solvent | acetic acid | 43 ml | C(C)(=O)O | C2H4O2
product | 2-{4-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl-methyl]-2-methylphenyl}-4-fluoroisoindol-1,3-dione | 10.80 g | FC(C1=NN(C(=C1)C(F)(F)F)CC1=CC(=C(C=C1)N1C(C2=CC=CC(=C2C1=O)F)=O)C)(F)F | C21H12F7N3O2
